US06448266B1
1-Benzyloxy-3-(tert-butoxycarbonylamino)cyclobutane-3-carboxylic acid
A 45.28 g (115.7 mmol) portion of 1-benzyloxy-3-(tert-butoxycarbonylamino)-3-isoamyloxycarbonylcyclobutane was dissolved in 300 ml of methanol to which, while cooling in an ice bath with stirring, was subsequently added dropwise 127 ml (127.2 mmol) of 1 N sodium hydroxide in 10 minutes. After 10 minutes of stirring, the ice bath was detached and the reaction mixture was stirred at room temperature for 5 hours. This was mixed with 200 ml of water, and methanol was evaporated under a reduced pressure. The thus obtained residue was mixed with ether to effect separation of layers, the resulting aqueous layer was extracted with diethyl ether, and the ether layer was extracted with water. The aqueous layers were combined, acidified with 10% citric acid while cooling in an ice bath with stirring and then mixed with ethyl acetate to effect separation of layers. The resulting organic layer was washed with saturated brine, and the aqueous layer was further extracted with ethyl acetate. The organic layers were combined, dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under a reduced pressure to give 37.24 g (quantitative) of the title compound. This compound was used in the following reaction without purification.

reactant | 1-benzyloxy-3-(tert-butoxycarbonylamino)-3-isoamyloxycarbonylcyclobutane | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)OCCC(C)C)NC(=O)OC(C)(C)C | C22H33NO5
reactant | sodium hydroxide | 127.2 mmol, 1 N, 127 ml | [OH-].[Na+]
reactant | water | 200 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 1-Benzyloxy-3-(tert-butoxycarbonylamino)cyclobutane-3-carboxylic acid | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)O)NC(=O)OC(C)(C)C | C17H23NO5
